US07479504B2
4-Nonylbenzaldehyde
A solution of 2.0 g (7.5 mmol) of 4-nonylbenzoyl chloride in 75 mL of THF at −78° C. was treated with 7.5 mL (7.5 mmol) of 1M lithium tri-(tert-butoxy) aluminum hydride in THF. After 30 min at −78° C., the reaction was quenched with 2N HCl and was allowed to warm to rt. The mixture was poured into Et2O and washed with 2N HCl, sat'd NaHCO3 and sat'd NaCl. The organic layer was dried over MgSO4 and concentrated. The residue was purified on a 40M Biotage column using 100:1 v/v hexane/Et2O as the eluant to afford 708 mg (41%) of the title compound: 1H-NMR (500 MHz) δ 0.87 (t, J=7.0, 3H), 1.26-1.31 (m, 12H), 1.60-1.66 (m, 2H), 2.68 (t, J=7.8, 2H), 7.32 (d, J=8.0, 2H), 7.79 (d, J=8.0, 2H), 9.97 (s, 1H).

reactant | 4-nonylbenzoyl chloride | 7.5 mmol, 2.0 g | C(CCCCCCCC)C1=CC=C(C(=O)Cl)C=C1 | C16H23ClO
reactant | lithium tri-(tert-butoxy) aluminum hydride | 7.5 mmol, 1M, 7.5 mL | [H-].C(C)(C)(C)O[Al](OC(C)(C)C)OC(C)(C)C.[Li+]
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | 4-Nonylbenzaldehyde | 708 mg, 41% | C(CCCCCCCC)C1=CC=C(C=O)C=C1 | C16H24O
